Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
simvastatin
 
Attending: ___
 
Chief Complaint:
Fever, rash
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
 Mr. ___ is a ___ avid outdoors person with BPH, HLD, OA, 
OSA on CPAP, and a history of idiopathic elevated CK who was 
referred into the ED by his PCP's office for fever, rash, sore 
throat, and neutropenia.  
 On ___ he initially presented to his PCP's office with several 
days of sore thoat. +PND with mild associated "GERD cough", no 
sputum. +mild hoarse voice. Denies coughing during the day, neck 
swelling, inability to take PO. Increased pain in the joints of 
his hands, which have previously been affected by OA, but seems 
worse than usual. He was evaluated for lyme disease ___ IgG 
and IgM negative).  
 He represented on ___ with worsening sore throat and joint 
pains as well as fever to 101.8 at home. He has progressive 
fatigue and noticed a light red rash across the left side of his 
chest x a few days.  
 He has ongoing exposure to many outdoor locales, high grasses 
and woods, and he has been intermittently taking care of his 
son's dogs throughout the summer but does not have any pets of 
his own.  
 He denies myalgias, daytime cough, abdominal pain, vomiting, 
diarrhea, witnessed tick bites, sick contacts (wife has no 
symptoms), recent travel (last international travel was ___ 
in ___. He denies easy bruising or bleeding/gum bleeding. 
No headaches. He does have a small oral ulcer in the roof of his 
mouth, which is different than the oral ulcers he takes prn 
valacyclovir for (has not needed recently). He denies jaundice, 
icterus, change in urine or stool color. Normal stools, no 
bleeding or black. No PND or orthopnea. No dysuria.  
 No new sexual partners, is sexually active with his wife.  
 Last known removed tick was in ___ when he went to see his 
PCP.  
 In the ED, initial vitals were 97.5 57 143/91 16 99% RA  
 
 Labs notable for iniaial ANC of 810, repeat was 989. Lactate 
1.2. Chem 7 WNL. CK 714 (at baseline). LFTs normal. CRP 38.9. UA 
with 3 RBCs. platelets initially 118, then up to 151. Ferritin 
264, RF 12. ___ pending.  
 Imaging notable for CXR with no acute process.  
 Patient was given zosyn for febrile neutropenia.  
 Vitals prior to transfer 58 188/62 16 98% RA.  
 
 On the floor, he feels the same. We discussed some of the 
potential diagnoses and he recalled some of the concerning 
diagnoses he saw online when googling his symptoms.  
 
 ROS:  
 (+) Per HPI. Also for recent retinal abnormality being followed 
by ophthalmology.  
 (-) 10 point ROS otherwise negative.  

 
Past Medical History:
PAST MEDICAL HISTORY:  
 - BPH  
 - history of febrile illness in ___, no dx  
 - HLD  
 - OA  
 - Basal cell carcinoma of left lower leg  
 - elevated CPK (chronic. 700-800 off statins, on statins, when 
not exercising or when riding a 400mi bike ride. No dx etiology. 
No muscle pain)  
 - sleep apnea on CPAP  

 
Social History:
___
Family History:
No leukemia or lymphoma or autoimmune diseases. Lots of heart 
disease. 2 brothers with heart disease. One sister.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
Vital Signs: 98.4 PO 140/79 L Sitting 56 20 100 RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx with one .3cm shallow 
ulcer on left soft palate, EOMI, PERRL, neck supple, JVP not 
elevated, no LAD in cervical, occipital, supraclavic or axillary 
areas  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no liver edge or sleep palpated, no rebound or guarding  
GU: No foley  
Ext: Warm, well perfused, no clubbing, cyanosis or edema  
Neuro: Face symmetric. Slight uvular deviation to the right. 
normal upper and lower limbs strength. EOMI, PERRL.  
Skin: Diffuse blanching, flat erythema in large area (~1.5ft x 1 
ft) of left chest and under left arm.  

DISCHARGE PHYSICAL EXAM:
VITALS: 99.0, 66, 125/72, 20, 97% 
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclerae anicteric, MMM, oral ulcer on left hard palate
NECK: Supple, JVP not elevated, no LAD (cervical, 
supraclavicular, axillary, popliteal)  
RESP: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
ABD: +BS, soft, nondistended, nontender to palpation. No 
hepatomegaly or splenomegaly. 
GU: no foley  
EXT: warm, well perfused, 2+ pulses, no edema.  
NEURO: CNs2-12 intact, strength ___ in b/l upper and lower 
extremities, sensation intact throughout. 
Skin: Symmetric blanching macular erythematous rash with few 
erythematous papules distributed over b/l flanks and lateral 
abdomen. No rash to palms or soles.  
 
Pertinent Results:
ADMISSION LABS:
___ 10:58AM BLOOD WBC-1.6* RBC-4.51* Hgb-14.1 Hct-42.5 
MCV-94 MCH-31.3 MCHC-33.2 RDW-13.1 RDWSD-45.4 Plt ___
___ 07:40PM BLOOD WBC-2.3* RBC-4.51* Hgb-14.3 Hct-41.8 
MCV-93 MCH-31.7 MCHC-34.2 RDW-13.0 RDWSD-43.7 Plt ___
___ 10:58AM BLOOD Neuts-52.3 ___ Monos-16.8* 
Eos-1.3 Baso-1.3* Im ___ AbsNeut-0.81* AbsLymp-0.43* 
AbsMono-0.26 AbsEos-0.02* AbsBaso-0.02
___ 07:40PM BLOOD Neuts-43 Bands-6* ___ Monos-9 Eos-0 
Baso-0 Atyps-2* ___ Myelos-0 AbsNeut-1.13* AbsLymp-0.97* 
AbsMono-0.21 AbsEos-0.00* AbsBaso-0.00*
___ 07:40PM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 07:40PM BLOOD Parst S-NEGATIVE
___ 10:58AM BLOOD UreaN-11 Creat-0.9 Na-136 K-3.9 Cl-99 
HCO3-26 AnGap-15
___ 10:58AM BLOOD ALT-21 AST-34 LD(LDH)-263* CK(CPK)-714* 
AlkPhos-41 TotBili-0.6
___ 10:58AM BLOOD Calcium-9.1
___ 10:58AM BLOOD Hapto-<10* Ferritn-264
___ 10:58AM BLOOD RheuFac-12 CRP-38.9*
___ 10:58AM BLOOD ___
___ 07:55PM BLOOD Lactate-1.2    
___ 10:58AM URINE Color-Straw Appear-Clear Sp ___
___ 10:58AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:58AM URINE RBC-3* WBC-1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 10:58AM URINE Mucous-RARE

DISCHARGE LABS:
___ 07:12AM BLOOD WBC-2.1* RBC-4.17* Hgb-13.1* Hct-39.1* 
MCV-94 MCH-31.4 MCHC-33.5 RDW-12.9 RDWSD-44.7 Plt ___
___ 07:12AM BLOOD Neuts-35 Bands-5 ___ Monos-18* 
Eos-3 Baso-0 Atyps-1* ___ Myelos-0 AbsNeut-0.84* 
AbsLymp-0.82* AbsMono-0.38 AbsEos-0.06 AbsBaso-0.00*
___ 07:12AM BLOOD Hypochr-NORMAL Anisocy-NORMAL 
Poiklo-NORMAL Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL
___ 07:12AM BLOOD ___ PTT-27.6 ___
___ 07:12AM BLOOD Plt Smr-LOW Plt ___
___ 07:12AM BLOOD Parst S-NEGATIVE
___ 07:12AM BLOOD Glucose-95 UreaN-11 Creat-0.9 Na-135 
K-4.0 Cl-101 HCO3-23 AnGap-15
___ 07:12AM BLOOD ALT-19 AST-32 AlkPhos-37* TotBili-0.5
___ 07:12AM BLOOD CK-MB-1 cTropnT-<0.01
___ 07:12AM BLOOD Calcium-8.5 Phos-3.7 Mg-1.9
___ 07:12AM BLOOD HBsAg-Negative HBsAb-Negative IgM 
HBc-Negative IgM HAV-PND
___ 07:12AM BLOOD HIV Ab-Negative

MICROBIOLOGY:
___: Blood cultures x 2 pending
___: Blood cultures x 2 pending, EBV Ab pending, CMV Ab 
pending
IMAGING:
CXR ___
No acute cardiopulmonary process.

 
Brief Hospital Course:
Mr. ___ is a ___ with h/o OA and idiopathic elevated CK who 
presented with fever, rash, and neutropenia ultimately 
discharged on 14 day course of docycycline for empiric Lyme 
treatment.  

#Neutropenic Fever:  
Labs demonstrated leukopenia with neutropenia (ANC 0.81-1.13) 
and borderline thrombocytopenia. In reviewing his records, it 
appears that his leukopenia is chronic but no records were 
available to assess chronicity of neutropenia. He clinically 
appeared very well with no active complaints aside from an 
asymptomatic blanching erythematous rash and increased joint 
pain in his hands. He remained afebrile throughout admission. 
The most likely etiology of his symptoms is infectious, likely 
tick-borne (Lyme, anaplasma, ehrlichia) given his extensive 
outdoor activities v. viral (cocksackie high on differential 
given appearance of oral ulcers). HIV, CXR, UA were negative. 
Recent ___ IgG/IgM for lyme were negative but can be negative 
in acute infection. Red blood cell smears were negative x 2 for 
parasites. Infectious disease was consulted and recommended a 14 
day empiric course of doxycycline (___). Rheum etiology is 
also possible given oral ulcers and elevated CRP; however, ___ 
was negative and rheumatoid factor and ESR were wnl. 
Specifically, Bechet's is possible given oral ulcer but no known 
uveitis and denies genital ulcers. Lupus less likely given 
negative ___, no hx of photosensitivity, malar/discoid rashes, 
or other symptoms. Malignancy is on the differential but less 
likely given no weight loss, night sweats, or adenopathy on 
exam. At discharge, hepatitis A, B, and C antibodies, anaplasma, 
parvovirus B19, mycoplasma, ehrlichia, EBV, CMV, ASO titer, and 
blood cultures were pending. Given patient appeared so 
clinically well, he was discharge to complete workup and 14 day 
doxycycline course (___) as outpatient.

#Rash - maculopapular bilateral lateral abdomen with pruritis. 
?contact vs drug reaction vs febrile. 

#Joint Pains - diffuse in hands with OA changes, not > 30 
minutes or concern for inflammatory at this time. 

TRANSITIONAL ISSUES:
-Recommend obtaining repeat CBC with diff in 1 week
-Please follow up results of pending Hepatitis A, B, and C 
antibodies, anaplasma, parvovirus B19, mycoplasma, ehrlichia, 
EBV, CMV, ASO titer, and blood cultures. 
-Pt should complete 14 day course of doxycycline for empiric 
tick borne illness treatment.
-Consider repeating haptoglobin and LDH as an outpatient. 
Haptoglobin was low and LDH was elevated this admission, 
possibly consistent with early hemolytic anemia. However, 
specimen may have been hemolyzed.  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
2. Sildenafil 100 mg PO PRN sexual activity 
3. Terazosin 5 mg PO QHS 
4. ValACYclovir 500 mg PO Q8H 
5. Zolpidem Tartrate 10 mg PO QHS:PRN insomnia 

 
Discharge Medications:
1.  Doxycycline Hyclate 100 mg PO Q12H Duration: 14 Days 
RX *doxycycline hyclate 100 mg 1 tablet(s) by mouth every twelve 
(12) hours Disp #*26 Tablet Refills:*0 
2.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
3.  Sildenafil 100 mg PO PRN sexual activity  
4.  Terazosin 5 mg PO QHS  
5.  ValACYclovir 500 mg PO Q8H  
6.  Zolpidem Tartrate 10 mg PO QHS:PRN insomnia  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: Febrile Neutropenia, Rash
Secondary: Obstructive sleep apnea, benign prostatic hypertrophy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

We saw you in the hospital because of your fevers and low white 
blood cell count. We did a chest xray that showed no evidence of 
pneumonia and a urinalysis that showed no evidence of infection. 
We also sent a number of blood tests to look for tick-borne and 
viral illnesses that can cause your symptoms. We had our 
infectious disease specialists see you as well, and we sent the 
blood tests that they recommended. Your primary care doctor ___ 
follow up the final results of all of these studies. Since you 
feel very well and do not have any active concerning symptoms, 
you are safe to go home and complete your workup as an 
outpatient. 

Given how much potential exposure you have to ticks, the 
infectious disease specialists recommend you complete a 14 day 
course of doxycycline. You should follow up with your primary 
care doctor in the next week to re-check your white blood cell 
levels and discuss the results of the pending blood tests. 

It was a pleasure to participate in your care.

Sincerely, 
Your ___ team
 
Followup Instructions:
___